US08461167B2
The title compound can be synthesized from 8-ethynyl-1,6-naphthyridine and N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 1. 8-ethynyl-1,6-naphthyridine is prepared from 8-bromo-1,6-naphthyridine and ethynyltrimethylsilane according to the 2 steps procedure described in Example 1.

reactant | 8-bromo-1,6-naphthyridine | BrC=1C=NC=C2C=CC=NC12 | C8H5BrN2
reactant | ethynyltrimethylsilane | C(#C)[Si](C)(C)C | C5H10Si
product | 8-ethynyl-1,6-naphthyridine | C(#C)C=1C=NC=C2C=CC=NC12 | C10H6N2
